US07488740B2
4. 5-Chloro-2-(3-chloropyridin-2-yl)-[1,8]naphthyridine
Dissolve 2-amino-4-chloronicotinaldehyde (312 mg, 2.0 mmol) and 2-acetyl-3-chloropyridine (310 mg, 2.0 mmol) in anhydrous THF (5.0 mL) and cool it to −20° C. under N2 atmosphere. Add in portion t-BuOK (448 mg, 4.0 mmol) to the reaction mixture and stir the mixture at 10° C. for 2 hours. Concentrate the reaction mixture under vacuum, dilute the residue with water (10 mL), filter the solid, wash the solid with water and dry under high vacuum to afford the title product as a yellow solid.

reactant | 2-amino-4-chloronicotinaldehyde | 2.0 mmol, 312 mg | NC1=C(C=O)C(=CC=N1)Cl | C6H5ClN2O
reactant | 2-acetyl-3-chloropyridine | 2.0 mmol, 310 mg | C(C)(=O)C1=NC=CC=C1Cl | C7H6ClNO
reactant | t-BuOK | 4.0 mmol, 448 mg | CC(C)(C)[O-].[K+]
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | 5-Chloro-2-(3-chloropyridin-2-yl)-[1,8]naphthyridine | ClC1=C2C=CC(=NC2=NC=C1)C1=NC=CC=C1Cl | C13H7Cl2N3
